US03976786
Acetic anhydride (6.0 ml.) was added to formic acid (98- 100% w/v; 24.0 ml.) with swirling and cooling and the mixture was allowed to stand at room temperature for 30 minutes. 3,5-Dinitroaniline (6.0 g.) was then added. The reaction mixture was warmed for 5 minutes on the steam bath and allowed to stand for 40 minutes, allowing it to cool to room temperature. Water (100 ml.) was added, and the precipitate was filtered off and dried. Crystallisation from a mixture of petroleum ether (b.p. 60°-80°C.) and ethyl acetate (2:1 by volume) gave 3',5'-dinitroformanilide (4.1 g.), m.p. 121°-123°C.

reactant | Acetic anhydride | 6.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 24.0 ml | C(=O)O | CH2O2
reactant | 3,5-Dinitroaniline | 6.0 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
solvent | Water | 100 ml | O | H2O
product | 3',5'-dinitroformanilide | 4.1 g | [N+](=O)([O-])C=1C=C(NC=O)C=C(C1)[N+](=O)[O-] | C7H5N3O5
